US08431682B2
7.1 5,5′-bis-trimethylstannyl-2,2′-biselenophene
A solution of BuLi in hexanes (10.6 ml of a 1.6 M solution, 17 mmol) is added dropwise to a cooled (−78° C.) solution of 2,2′-biselenophene (2.00 g, 7.7 mmol) in THF (50 ml) and TMEDA (1.98 g, 17 mmol). On addition of the BuLi an immediate colour change is observed (dark red). After stirring for 20 min, the reaction mixture appeared dark yellow. The mixture is stirred for 6 h allowing to warm to 16-18° C. While warming the reaction mixture changed appearance to a green suspension. The reaction mixture is then cooled to −70° C. Trimethylstannyl chloride (3.38 g, 17 mmol) is added as a solid to the reaction mixture. After 10 min, the reaction mixture appeared brown. The reaction mixture is allowed to warm to room temperature overnight. The reaction is quenched with water (100 mL) and the mixture stirred for 1 h. Ethylacetate (100 mL) is added to the mixture. The layers are separated. The combined organic extracts are washed with water, brine and then dried (Na2SO4). After filtration the crude product is concentrated to yield a brown oil. MeCN is added and the mixture is stirred for 5 min. The mixture is recrystallized three times from acetonitrile. The material is used without further purification. MS (EI) 588 (M+).

reactant | BuLi | [Li]CCCC
reactant | 2,2′-biselenophene | 7.7 mmol, 2.00 g | [Se]1C(=CC=C1)C=1[Se]C=CC1 | C8H6Se2
reactant | TMEDA | 17 mmol, 1.98 g | CN(C)CCN(C)C | C6H16N2
reactant | Trimethylstannyl chloride | 17 mmol, 3.38 g | C[Sn](C)(C)Cl
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | MeCN | CC#N | C2H3N
product | 5,5′-bis-trimethylstannyl-2,2′-biselenophene | C[Sn](C1=CC=C([Se]1)C=1[Se]C(=CC1)[Sn](C)(C)C)(C)C | InChI=1S/C8H4Se2.6CH3.2Sn/c1-3-7(9-5-1)8-4-2-6-10-8;;;;;;;;/h1-4H;6*1H3;;
